US04672071
A solution of 6.2 g of 2-(4-benzyloxyphenyl)ethylacetoacetate in 100 mL of ethanol with 0.5 g of 10% palladium on carbon was hydrogenated at 50 psi for 18 h. The mixture was filtered and the filtrate evaporated to afford 4.3 g of 2-(4-hydroxyphenyl)ethylacetoacetate.

reactant | 2-(4-benzyloxyphenyl)ethylacetoacetate | 6.2 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCOC(CC(=O)C)=O | C19H20O4
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | 2-(4-hydroxyphenyl)ethylacetoacetate | 4.3 g | OC1=CC=C(C=C1)CCOC(CC(=O)C)=O | C12H14O4
